US07807394B2
To a solution of 2-nitro-1-(prop-2-ynyl)-1H-imidazole (0.2 gm, 1.32 mmol) and 1-azido-3-(tosyloxy)propan-2-yl acetate (0.41 gm, 1.32 mmol) in THF (2.5 mL), was treated with CuI (0.025 gm, 0.132 mmol) and DIPEA (0.3 mL, 1.46 mmol) at room temperature. After stirring the reaction mixture for overnight, silica was added, solvent evaporated under reduced pressure and purified by chromatography on silica gel (MeOH/CH2Cl2, 1/10) to give the 1-(4-((2-nitro-1H-imidazol-1-yl)methyl)-1H-1,2,3-triazol-1-yl)-3-(tosyloxy)propan-2-yl acetate (0.5 gm, 81%) as white solid. 1H NMR (CDCl3, 400 MHz) δ: 7.76-7.78 (m, 3H), 7.35-7.39 (m, 3H), 7.15 (br, 1H), 5.68 (d, J=5.6 Hz, 2H), 5.27-5.32 (m, 1H), 4.56-4.67 (m, 2H), 4.19 (dd, J=4.0, 11.2 Hz, 1H), 4.08 (dd, J=4.0, 11.2 Hz, 1H), 2.46 (s, 3H), 1.97 (s, 3H); Mass Spec (lo-res): Calc'd for C18H20N6O7S: 464.11. found: 465.1 (M+H+).

reactant | 2-nitro-1-(prop-2-ynyl)-1H-imidazole | 1.32 mmol, 0.2 gm | [N+](=O)([O-])C=1N(C=CN1)CC#C | C6H5N3O2
reactant | 1-azido-3-(tosyloxy)propan-2-yl acetate | 1.32 mmol, 0.41 gm | C(C)(=O)OC(CN=[N+]=[N-])COS(=O)(=O)C1=CC=C(C)C=C1 | C12H15N3O5S
reactant | DIPEA | 1.46 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.132 mmol, 0.025 gm | [Cu]I
product | 1-(4-((2-nitro-1H-imidazol-1-yl)methyl)-1H-1,2,3-triazol-1-yl)-3-(tosyloxy)propan-2-yl acetate | 0.5 gm, 81% | C(C)(=O)OC(CN1N=NC(=C1)CN1C(=NC=C1)[N+](=O)[O-])COS(=O)(=O)C1=CC=C(C)C=C1 | C18H20N6O7S
